US04556717
1-[2-(2,4-Dichlorophenyl)-pentylidene]-2-methoxycarbonylhydrazine
11.0 g of Raney nickel are added to a solution of 22.8 g (0.1 mol) of 2-(2,4-dichlorophenyl)-valeronitrile, 9.0 g (0.1 mol) of hydrazinecarboxylic acid methyl ester and 6.0 g (0.1 mol) of acetic acid in 200 ml of 95% aqueous ethanol, and the mixture is hydrogenated at room temperature under a normal pressure of hydrogen for 6.5 hours. Filtration and crystallisation yield 23.3 g (77% of theory) of the above product, which after recrystallisation from methanol has a melting point of 165°-166° C. and gives the following analytical data: IR spectrum (CHCl3) in cm-1 : 1750, 1718; 1H-NMR spectrum (250 MHz, CDCl3) 8.0 (bs, 1H, HN); 7.41 (d, J=2, 1H, H--Ar); 7.28 (s, 1H, HC=N--); 7.23 (dAB xd, JAB =8, J=2, 1H, H--Ar); 7.16 (dAB, JAB =8, 1H, H--Ar); 4.11 (q, J=7, 1H, HC(2)); 3.80 (s, 3H, H3CO--); 2.02-1.68 (m, 2H, H2C(3)); 1.40-1.10 (m, 2H, H2C (4)); 0.88 (t, J=7, 3H, H3C); mass spectrum: 304/302 (M+).

reactant | 2-(2,4-dichlorophenyl)-valeronitrile | 0.1 mol, 22.8 g | ClC1=C(C=CC(=C1)Cl)C(C#N)CCC | C11H11Cl2N
reactant | hydrazinecarboxylic acid methyl ester | 0.1 mol, 9.0 g | COC(=O)NN | C2H6N2O2
reactant | acetic acid | 0.1 mol, 6.0 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 11.0 g | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(2,4-Dichlorophenyl)-pentylidene]-2-methoxycarbonylhydrazine | ClC1=C(C=CC(=C1)Cl)C(C=NNC(=O)OC)CCC | C13H16Cl2N2O2
